US06362334B1
3 3-Fluoro-4-morpholinylphenylisocyanate (XIV)
A mixture of 3-Fluoro-4-morpholinylaniline (PREPARATION 1, 12.01 g, 61.21 mmol) in methylene chloride (100 ml) is added to a mixture of phosgene (1.93 M in toluene, 63.4 ml, 122.4 mmol, 2.00 eq) in p-chlorotoluene (60 ml) over 15 min, a while maintaining the temperature from about −12 to 3°. The material is rinsed in with methylene chloride (30 ml). The mixture is then warmed to 130° under atmospheric pressure with concomitant distillation of methylene chloride, phosgene, toluene and hydrogen chloride gas into a caustic scrubber. The mixture is cooled to 25° and filtered. The precipitate is washed with methylene chloride (3×15 ml). The filtrate is concentrated under reduced pressure. Heptane (200 ml) is added to the concentrated filtrate and the resultant slurry cooled to −32°. The product is collected by filtration with reduced pressure, washed with heptane cooled to −30°, and dried in a nitrogen stream to give the title compound, HPLC (stationary phase is 4.6×250 mm zorbax RX C-8 column; mobile phase is acetonitrile (650 ml), triethylamine (1.85 ml) and acetic acid (1.30 ml) and water of sufficient amount to make 1,000 ml; flow rate=3.0 ml/min; UV detection at 254 nm) RT=1.08 min. Upon derivatizing as N-carbomethoxy-3-fluoro-4-morpholinylaniline by dissolving in methanol; NMR (CDCl3) 3.05, 3.86 and 6.78-6.89 δ; CMR (CDCl3) 50.90, 66.89, 113.11, 119.15, 120.83, 124.67, 127.65, 138.06 and 155.40 δ; MS (EI), m/z (relative intensity) 222 (37) and 164 (100).

reactant | 3-Fluoro-4-morpholinylaniline | 61.21 mmol, 12.01 g | FC=1C=C(N)C=CC1N1CCOCC1 | C10H13FN2O
reactant | phosgene | 122.4 mmol, 1.93 M, 63.4 ml, 2.00 eq | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | p-chlorotoluene | 60 ml | ClC1=CC=C(C=C1)C | C7H7Cl
product | 3-Fluoro-4-morpholinylphenylisocyanate | FC=1C=C(C=CC1N1CCOCC1)N=C=O | C11H11FN2O2
